US06740662B1
To 1.28 g of 4-(3-bromophenyl)-3-(1-ethoxycarbonylpiperidin-4-yl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one was added 20 ml of concentrated hydrochloric acid, followed by stirring at 100° C. for 3 hours. The solvent was evaporated and, after the residue was made alkaline by adding concentrated aqueous ammonia, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate. After removal of the solvent from the organic layer, the resulting crude crystals were recrystallized from acetonitrile and then recrystallized from ethanol-water to obtain 357 mg of 4-(3-bromophenyl)-1-ethyl-7-methyl-3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one as colorless crystals.

reactant | 4-(3-bromophenyl)-3-(1-ethoxycarbonylpiperidin-4-yl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one | 1.28 g | BrC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1CCN(CC1)C(=O)OCC | C25H28BrN3O3
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 4-(3-bromophenyl)-1-ethyl-7-methyl-3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one | 357 mg | BrC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1CCNCC1 | C22H24BrN3O
